US04332809
In the same manner as described in Example 13-(1), 4-isopropyl-6-(4-nitrophenyl)-2-pyridinecarboxylic acid (1.62 g), thionyl chloride (15 ml) and 5-aminotetrazole (0.63 g) are reacted to give N-(5-tetrazolyl)-4-isopropyl-6-(4-nitrophenyl)-2-pyridinecarboxamide (0.85 g). M.P. 270°-272° C. (decomp.) (recrystallized from dimethylformamide-ethanol)

reactant | 4-isopropyl-6-(4-nitrophenyl)-2-pyridinecarboxylic acid | 1.62 g | C(C)(C)C1=CC(=NC(=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C15H14N2O4
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminotetrazole | 0.63 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-isopropyl-6-(4-nitrophenyl)-2-pyridinecarboxamide | 0.85 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C16H15N7O3
